US07632832B2
N-[(3R)-2-Oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepin-3-yl]-4-(2-oxo-4-phenyl-2,3-dihydro-1H-imidazol-1-yl)piperidine-1-carboxamide
3-Amino-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepine (20.0 mg, 0.06 mmol) (Y.-J. Shi et al., Tetrahedron, 1999, 55, 909-918) and p-nitrophenylchloroformate (12.1 mg, 0.06 mmol) were dissolved in tetrahydrofuran (0.5 mL) under argon, and cooled to 0° C. Triethylamine (19 uL, 0.14 mmol) was added and the reaction stirred for 1 h, followed by addition of more triethylamine (19 uL) and 4-phenyl-1-piperidin-4-yl-1,3-dihydro-2H-imidazol-2-one hydrochloride (16.8 mg, 0.06 mmol), prepared according to the procedure described in the patent U.S. Pat. No. 6,344,449 B1. The reaction was warmed to room temperature and stirred overnight. The crude product was purified by reverse phase HPLC (C-18, 5% to 95% 0.1% trifluoroacetic acid/acetonitrile in 0.1% aqueous trifluoroacetic acid gradient elution) to give she title compound (26.1 mg). MS 603 (M+1)

reactant | 3-Amino-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepine | 0.06 mmol, 20.0 mg | NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CC(F)(F)F)=O | C17H14F3N3O
reactant | Triethylamine | 0.14 mmol, 19 uL | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 19 uL | C(C)N(CC)CC | C6H15N
reactant | 4-phenyl-1-piperidin-4-yl-1,3-dihydro-2H-imidazol-2-one hydrochloride | 0.06 mmol, 16.8 mg | Cl.C1(=CC=CC=C1)C=1NC(N(C1)C1CCNCC1)=O
reactant | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
product | N-[(3R)-2-Oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepin-3-yl]-4-(2-oxo-4-phenyl-2,3-dihydro-1H-imidazol-1-yl)piperidine-1-carboxamide | 26.1 mg | O=C1N(C2=C(C(=N[C@H]1NC(=O)N1CCC(CC1)N1C(NC(=C1)C1=CC=CC=C1)=O)C1=CC=CC=C1)C=CC=C2)CC(F)(F)F | C32H29F3N6O3
